US04092150
This compound was prepared in the manner of Example XVII, substituting 4,6-dichloro-2-isopropylamino-5-pyrimidinecarbonitrile and aqueous ammonia for 4,6-dichloro-2-ethylamino-5-pyrimidinecarbonitrile and isopropylamine. The reaction product was recrystallized from benzene to give 6-amino-4-chloro-2-isopropylamino-5-pyrimidinecarbonitrile; mp, 162°-165°.

reactant | ammonia | N | H3N
reactant | 4,6-dichloro-2-ethylamino-5-pyrimidinecarbonitrile | ClC1=NC(=NC(=C1C#N)Cl)NCC | C7H6Cl2N4
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 6-amino-4-chloro-2-isopropylamino-5-pyrimidinecarbonitrile | NC1=C(C(=NC(=N1)NC(C)C)Cl)C#N | C8H10ClN5
